US04585780
3-Benzyloxy-6-benzyloxypyrid-4-one (5.0 g) and methylamine hydrochloride (1.56 g) are dissolved in aqueous ethanol (300 ml of 2:1 H2O--C2H5OH by volume containing 2 g of sodium hydroxide). The reaction mixture is stirred at room temperature for 6 days and then acidified with concentrated HCl to pH 2.0. The yellow mixture is evaporated to dryness and the resulting solid residue is heated under reflux with concentrated HCl (50 ml) for 30 minutes. The product is rotary evaporated to dryness yielding a brown residue which on trituration with acetone forms crystals. Recrystallisation of these from ethanol gives 3-hydroxymethyl-1-methylpyrid-4-one in 15% yield, m.p. 185°-186° C.; δ(d6DMSO), 3.9 (s, 3H), 4.6 (s, 2H), 7.4 (s, 1H), 8.3 (s, 1H).

reactant | 3-Benzyloxy-6-benzyloxypyrid-4-one | 5.0 g | C(C1=CC=CC=C1)OC1C=NC(=CC1=O)OCC1=CC=CC=C1 | C19H17NO3
reactant | methylamine hydrochloride | 1.56 g | Cl.CN
reactant | HCl | Cl | ClH
reactant | ethanol | 300 ml, 2 g | C(C)O | C2H6O
product | 3-hydroxymethyl-1-methylpyrid-4-one | 15% yield | OCC1=CN(C=CC1=O)C | C7H9NO2
